US07067530B2
(E)-(S)-2-(2-Benzoyl-phenylamino)-3-[4-(3-quinolin-2-yl-allyloxy)-phenyl]-propionic acid methyl ester
Under an atmosphere of nitrogen, azodicarboxylic dipiperidide (504 mg, 2.0 mmol) was added at 0–5° C. to a stirred solution of (S)-2-(2-benzoyloxy-phenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester (300 mg, 0.8 mmol), (E)-3-quinolin-2-yl-prop-2-en-1-ol (185 mg, 1.0 mmol) and tributylphosphine (404 mg, 2.0 mmol) in dry THF (30 ml). The mixture was stirred for 1.5 h. The reaction mixture was concentrated in vacuo, diluted with water and the product extracted with ethyl acetate. The organic layers were combined, washed with water, dried (MgSO4) and evaporated. The crude product was purified by column chromatography on a CN-column, eluting with acetonitrile+0.1% TFA graduated with from 20–100% water+0.1% TFA. The title compound was isolated in 100 mg yield.

reactant | (S)-2-(2-benzoyloxy-phenylamino)-3-(4-hydroxyphenyl)-propionic acid methyl ester | 0.8 mmol, 300 mg | COC([C@H](CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)OC(C1=CC=CC=C1)=O)=O | C23H21NO5
reactant | (E)-3-quinolin-2-yl-prop-2-en-1-ol | 1.0 mmol, 185 mg | N1=C(C=CC2=CC=CC=C12)/C=C/CO | C12H11NO
reactant | tributylphosphine | 2.0 mmol, 404 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | THF | 30 ml | C1CCOC1 | C4H8O
product | (E)-(S)-2-(2-Benzoyl-phenylamino)-3-[4-(3-quinolin-2-yl-allyloxy)-phenyl]-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)OC\C=C\C1=NC2=CC=CC=C2C=C1)NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=O | C35H30N2O4
